Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o DVT, LMCA stroke w/residual aphasia & R hemiparesis, 
focal motor seizures on dilantin and h/o GIB sent in from 
assisted living after witnessed generalized seizure today.  

Limited history of seizure at assisted living but thought to 
have been generalized by aide who witnessed it and self-resolved 
after 5 minutes.  ___ 306.  Pt is DNR.

Pt reportedly had second generalized seizure witnessed by ED 
staff at ~1pm, ___ minutes duration resolved after 2mg IV 
ativan. Dilantin level found to be low at 6.6, alb 4.0.

Pt also on warfarin with INR 1.4.

 
Past Medical History:
- LMCA stroke ___ yrs ago w/residual aphasia & R hemiparesis,
focal motor seizures approx 1 focal sz qmo but generalized ___ yrs
ago
- osteoarthritis
- s/p ORIF R hip ___
- h/o DVT in ___
- h/o GIB
- depression
Family doesn't think she's ever had a heart arrhythmia.  Per
family member, warfarin was started more recently in ___ when
she developed complications to her hip surgery including DVT. 
Unclear duration of her warfarin course but pt has an orthopedic
surgeon with whom 

Followed by ___ and only recently transferred PCP ___.

 
Social History:
___
Family History:
NC
 
Physical Exam:
T- 97.1  BP- 138/74  HR- 102  RR- 16  99 O2Sat 2L
Gen: frail edlerly lady lying in stretcher, NAD
HEENT: NC/AT, moist oral mucosa
Neck: supple, no carotid or vertebral bruit
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs
Lung: clear to auscultation bilaterally
aBd: +BS soft, nontender
ext: no edema, right arm in sling

Neurologic examination:
MS: asleep but arousable, difficult to keep eyes open but does
regard.  does not answer questions consistently, apparently
answers "yes/no" questions at baseline.  not following commands. 

aphasic w/o vocalizations.

CN:
I: not tested
II,III: PERRL 4mm to 2mm
III,IV,V: EOMI w/OCMs, no ptosis. No nystagmus
V:  sensation V1-V3 to LT difficult to assess
VII:  R UMN facial weakness
VIII:  difficult to assess hearing to finger rub 
IX,X,XI,XII:  declines to open mouth or raise shoulders

Motor/Sensory: Decreased bulk throughout, spastic right arm and 
increased tone in right leg.  No tremor, asterixis or myoclonus. 
Lifts left arm antigravity.  Right arm minimal spontaneous 
movements.  Legs w/d to noxious stim bilaterally.

Reflex: Brisker 2+ on the right, 2 on the left.  Right to 
upgoing, left downgoing. 

Coordination/Gait/Romberg: unable to assess.

 
Pertinent Results:
___ 10:00AM BLOOD ___ PTT-20.9* Plt Smr-VERY LOW 
___
___ 08:05AM BLOOD ___
___ 10:00AM BLOOD Glucose-137* UreaN-9 Creat-0.8 Na-143 
K-4.2 Cl-105 HCO3-23 AnGap-19
___ 09:06AM BLOOD Glucose-90 UreaN-11 Creat-0.7 Na-143 
K-4.0 Cl-107 HCO3-27 AnGap-13
___ 10:00AM BLOOD ALT-15 AST-22 LD(LDH)-203 AlkPhos-88 
TotBili-0.1
___ 10:00AM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.7 Mg-2.0
___ 09:06AM BLOOD TSH-1.6
___ 10:00AM BLOOD Phenyto-6.6*
___ 06:56PM BLOOD Phenyto-21.6*
___ 09:06AM BLOOD Phenyto-17.4
___ 08:05AM BLOOD Phenyto-13.9
___ 12:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:20AM BLOOD Phenyto 8.7* 
___ 07:20AM BLOOD  ___    INR-1.5* 

CXR: No acute cardiopulmonary disease.

Head CT: 
1. Left sided cystic encephalomalacic changes from remote large 
left middle cerebral artery territory infarct.
2. No acute major vascular territorial infarcts are noted. 
However, considering underlying chronic changes, subtle acute 
infarcts may be missed, for which MRI is a better modality.
 
Brief Hospital Course:
Ms. ___ was admitted to the Neurology Service for further 
evaluation. She remained hemodynamically stable throughout her 
hospital course, which is outlined by problem as follows:

1) Seizures:
She was loaded with Dilantin in the ED and also started on 
Keppra. Her Dilantin level after the load was supratherapeutic. 
Given the drug-drug interactions of Dilantin and Coumadin, it 
was therefore decided to switch her from Dilantin to Keppra. The 
Keppra was therefore gradually titrated to 1000mg BID and her 
Dilantin was allowed to taper down (level 8.7 day prior to 
discharge). She tolerated the switch to Keppra well and without 
side effects, and reported no additional seizure events. Should 
she have increased seizures or concern for seizure activity, the 
Keppra can be increased to 1250mg or 1500mg PO BID as tolerated. 


2) DVT: 
In the interim, while her dilantin was trending down, the 
Coumadin was stopped and she was bridged with Lovenox. The INR 
was also followed (1.5 day prior to discharge) and she will 
needed it checked regularly as when her Coumadin is restarted.

3) Hypothyroid:
Her TSH was checked and was normal. She was therefore continued 
on her home dose of Levothyroxine. 

She is being discharged with stable R hemiparesis and aphasia 
back to assisted living with ___ services to assist in 
anticoagulation management. Her PCP's office was contacted and 
informed of her hospital course. They will see her at her home 
for follow-up and adjust her Coumadin as needed.
 
Medications on Admission:
- colace 100mg BID
- calcium and vit D
- levoxyl 25mcg QD
- lipitor 40mg QD
- sertraline 100mg QD
- phenytoin 200mg QAM, 100mg QPM per assisted living but 
supposed
to be on (200/100 = 300mg daily alternating with 200/200 400mg
daily
- warfarin 2mg QD

 
Discharge Medications:
1. Levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Sertraline 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*2*
7. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours): Please continue until transition to 
Coumadin on ___.
Disp:*10 * Refills:*2*
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Coumadin 2 mg Tablet Sig: Two (2) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure
Old Stroke
Subtherapeutic INR and DPH levels

 
Discharge Condition:
Stable aphasia and R hemiplegia

 
Discharge Instructions:
1. Please take all medications as prescribed.
2. OK to increase Keppra to 1250-1500mg BID if has increased 
seizure events on current dosing.
3. Please resume Coumadin 2mg PO QD on ___.
4. Please check the INR on ___ and ___ (titrate dosing for 
goal 1.5-2.0), and then check INR weekly and send results to the 
primary care physician.
 
Followup Instructions:
___